US06503907B2
30 mg (0.076 mmol) 5-(4-Bromo-butoxy)-1-(4-chloro-phenyl)-6-fluoro-1H-indole in 0.25 ml DMF were treated with 75 μl of N-Allylmethylamine and stirred at 80° C. during 1 h. The mixture was treated with 0.5M aqueous NaOH and extracted three times with Et2O. Drying of the combined organic layers with Na2SO4, evaporation of the solvent and column chromatography on silica gel with hexane/EtOAc 1:1 gave 25 mg (85%) Allyl-{4-[1-(4-chloro-phenyl)-6-fluoro-1H-indol-5-yloxy]-butyl}-methyl-amine as a light yellow oil, MS: 387 (MH+, 1Cl).

reactant | 5-(4-Bromo-butoxy)-1-(4-chloro-phenyl)-6-fluoro-1H-indole | 0.076 mmol, 30 mg | BrCCCCOC=1C=C2C=CN(C2=CC1F)C1=CC=C(C=C1)Cl | C18H16BrClFNO
reactant | N-Allylmethylamine | 75 μl | C(C=C)CN | C4H9N
reactant | NaOH | 0.5M | [OH-].[Na+]
reactant | DMF | 0.25 ml | CN(C)C=O | C3H7NO
product | Allyl-{4-[1-(4-chloro-phenyl)-6-fluoro-1H-indol-5-yloxy]-butyl}-methyl-amine | 25 mg, 85% | C(C=C)N(C)CCCCOC=1C=C2C=CN(C2=CC1F)C1=CC=C(C=C1)Cl | C22H24ClFN2O
